US09108926B2
3-Fluoro-5-[(methylsulfonyl)methyl]aniline
Titanium(III)chloride solution (about 15%) in about 10% hydrochloric acid (29 mL, Merck Schuchardt OHG) was added to a stirred solution of crude 1-fluoro-3-[(methylsulfonyl)methyl]-5-nitrobenzene (1.00 g) in THF (45 mL) at room temperature and the batch was stirred for 16 hours. The batch was cooled with an ice bath while 1N sodium hydroxide solution was added to raise the pH value of the reaction mixture to 8-9. It was stirred for 30 minutes at this temperature before the batch was extracted with ethyl acetate (2×). The combined organic phases were washed with brine, filtered using a Whatman filter and concentrated. The residue was purified by column chromatography (hexane/ethyl acetate 1:1 to ethyl acetate) to give the desired product (262 mg; 1.29 mmol).

reactant | 1-fluoro-3-[(methylsulfonyl)methyl]-5-nitrobenzene | 1.00 g | FC1=CC(=CC(=C1)[N+](=O)[O-])CS(=O)(=O)C | C8H8FNO4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | hydrochloric acid | 29 mL | Cl | ClH
solvent | THF | 45 mL | C1CCOC1 | C4H8O
catalyst | Titanium(III)chloride | [Cl-].[Ti+3].[Cl-].[Cl-]
product | 3-Fluoro-5-[(methylsulfonyl)methyl]aniline | 1.29 mmol, 262 mg | FC=1C=C(N)C=C(C1)CS(=O)(=O)C | C8H10FNO2S
